US04172896
To a solution of 8.0 of 3-bromomethyl-1,2-benzisoxazole (m.p. 64°-66° C.) in 130 ml of methanol was added a solution of 8.1 g of sodium sulfite in 130 ml of water. The mixture was heated with stirring at 50° C. for 4 hours and concentrated under reduced pressure. The crystalline residue was dissolved in 250 ml of methanol with warming and the insoluble material was filtered off. The filtrate was concentrated under reduced pressure and the crystalline residue was washed with diethyl ether to give crude sodium 1,2-benzisoxazole-3-methanesulfonate (10.5 g).

reactant | 3-bromomethyl-1,2-benzisoxazole | BrCC1=NOC2=C1C=CC=C2 | C8H6BrNO
reactant | sodium sulfite | 8.1 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 130 ml | CO | CH4O
solvent | water | 130 ml | O | H2O
product | sodium 1,2-benzisoxazole-3-methanesulfonate | 10.5 g | O1N=C(C2=C1C=CC=C2)CS(=O)(=O)[O-].[Na+] | InChI=1S/C8H7NO4S.Na/c10-14(11,12)5-7-6-3-1-2-4-8(6)13-9-7;/h1-4H,5H2,(H,10,11,12);/q;+1/p-1
